US08232284B2
Using 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol and 3-chloro-5-[2-(1,3-dioxolan-2-yl)ethoxy]-2-fluoropyridine, 5-chloro-6-({4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-yl}oxy)pyridin-3-ol (194 mg) was obtained as a brown solid by the methods as in Example 6-2) and Example 6-3), methods equivalent thereto or combinations of these with usual methods.

reactant | 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)O | C13H11N5O
reactant | 3-chloro-5-[2-(1,3-dioxolan-2-yl)ethoxy]-2-fluoropyridine | ClC=1C(=NC=C(C1)OCCC1OCCO1)F | C10H11ClFNO3
product | 5-chloro-6-({4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-yl}oxy)pyridin-3-ol | 194 mg | ClC=1C=C(C=NC1OC=1C=C2C(=NC=NC2=CC1)NC1=NC=C(N=C1)C)O | C18H13ClN6O2
